US06653313B2
H. Dimethyl 2-(2-{2-[(3-aminopropoxy)methyl]phenyl}ethyl)-4-(2,6-dichlorophenyl)-6-{2-[4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)-1-piperazinyl]-2-oxoethyl}-1,4-dihydro-3,5-pyridinedicarboxylate
A mixture of dimethyl 4-(2,6-dichlorophenyl)-2-{2-[4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)-1-piperazinyl]-2-oxoethyl}-6-[2-(2-{[3-(tritylamino)propoxy]methyl}phenyl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate (355 mg/0.346 mmol) and p-toluenesulfonic acid monohydrate (246 mg/1.29 mmol) in methanol (9.4 ml) and water (3.5 ml) was stirred at reflux temperature for 4 hours. After cooling, the mixture was poured into saturated NaHCO3 aqueous solution. The whole was extracted with dichloromethane (100 ml×2). The combined organic layer was washed with brine (30 ml), dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography (NH2 gel/200-350 mesh/dichloromethane:methanol=100:1-1100:2-100:5) to afford a yellow amorphous (190 mg/70%).

reactant | dimethyl 4-(2,6-dichlorophenyl)-2-{2-[4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)-1-piperazinyl]-2-oxoethyl}-6-[2-(2-{[3-(tritylamino)propoxy]methyl}phenyl)ethyl]-1,4-dihydro-3,5-pyridinedicarboxylate | 0.346 mmol, 355 mg | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=C(C=CC=C1)COCCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)N1CCN(CC1)C1CC2CCC(C1)N2C)C(=O)OC | C60H67Cl2N5O6
reactant | p-toluenesulfonic acid monohydrate | 1.29 mmol, 246 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 9.4 ml | CO | CH4O
solvent | water | 3.5 ml | O | H2O
product | Dimethyl 2-(2-{2-[(3-aminopropoxy)methyl]phenyl}ethyl)-4-(2,6-dichlorophenyl)-6-{2-[4-(8-methyl-8-azabicyclo[3.2.1]oct-3-yl)-1-piperazinyl]-2-oxoethyl}-1,4-dihydro-3,5-pyridinedicarboxylate | NCCCOCC1=C(C=CC=C1)CCC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1Cl)Cl)C(=O)OC)CC(=O)N1CCN(CC1)C1CC2CCC(C1)N2C | C41H53Cl2N5O6
